US07163937B2
The compound (1R,3R,4S)-[4-((2S)-2-benzyloxycarbonylamino-4-methylsulfanyl-butyrylamino)-3-propyl-cyclohexyl]-carbamic acid tert-butyl ester (375 mg) was “wetted” with EtOAc, and then the majority of EtOAc was removed under nitrogen stream. The residue was dissolved in iodomethane (6 mL), and the resulting solution was stirred at RT for 48 h before being concentrated in vacuo. The residue was dissolved in methylene chloride, and the resulting solution was concentrated; this was repeated to afford the salt. MS found: (M+H)+=536.3. This material was dissolved in DMF (12 mL) and the solution was charged with Cs2CO3 (470 mg, 1.4 mmol) and stirred for 12 h at RT before being partitioned between EtOAc and brine. The organic phase was dried (Na2SO4), filtered, and concentrated in vacuo. The residue was purified by flash chromatography to afford {(3S)-1-[(1S,2R,4R)-4-tert-butoxycarbonylamino-2-propyl-cyclohexyl]-2-oxo-pyrrolidin-3-yl}-carbamic acid benzyl ester (185 mg). MS found: (M+H)+=474.3.

reactant | (1R,3R,4S)-[4-((2S)-2-benzyloxycarbonylamino-4-methylsulfanyl-butyrylamino)-3-propyl-cyclohexyl]-carbamic acid tert-butyl ester | 375 mg | C(C)(C)(C)OC(N[C@H]1C[C@H]([C@H](CC1)NC([C@H](CCSC)NC(=O)OCC1=CC=CC=C1)=O)CCC)=O | C27H43N3O5S
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | Cs2CO3 | 1.4 mmol, 470 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | {(3S)-1-[(1S,2R,4R)-4-tert-butoxycarbonylamino-2-propyl-cyclohexyl]-2-oxo-pyrrolidin-3-yl}-carbamic acid benzyl ester | 185 mg | C(C1=CC=CC=C1)OC(N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(=O)OC(C)(C)C)CCC)=O)=O | C26H39N3O5
